US03979430
1.29 Gm. of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionitrile and 0.85 gm. of p-toluenesulfonic acid monohydrate are refluxed for six hours in 25 ml. of methanol. The solution is cooled and added to water and ether. The ethereal solution is washed, dried and evaporated to give a 75% yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid methyl ester as an oil which slowly crystallized, m.p. 37°-39°C., NMR: δCDCl 3 1.55(d), 3.67(s), 3.83(g), 7.04(s) ppm. Use of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetonitrile gives a similar yield of 2-(5H-dibenzo[ a,d]cyclohepten-5-on-2-yl)acetic acid methyl ester, m.p. 67°-69°C.

reactant | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionitrile | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(C#N)C | C18H13NO
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methanol | CO | CH4O
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid methyl ester | 75% yield | COC(C(C)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1)=O | C19H16O3
